US04638002
Preparation of 3-bromomethyl-benzoic acid
10 g (73.4 millimoles) of m-methyl-benzoic acid are dissolved in 75 ml of anhydrous carbon tetrachloride, whereupon 0.2 g of 2,2'-azo-bis-(2-methyl-propiontirile) and 13.72 g (77.07 millimoles) of N-bromo-succinimide are added. The reaction mixture is refluxed for 20 minutes, the formed succinimide is removed by filtering the warm mixture. The organic filtrate is washed with 15 ml of water, dried over sodium sulfate, filtered and the filtrate is evaporated in vacuo. The crude product thus obtained is recrystallized from a fivefold amount of carbon tetrachloride. Thus 12.71 g of the title compound are obtained, yield 80.5%.

reactant | m-methyl-benzoic acid | 73.4 millimoles, 10 g | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | N-bromo-succinimide | 77.07 millimoles, 13.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-benzoic acid | 12.71 g, yield 80.5% | BrCC=1C=C(C(=O)O)C=CC1 | C8H7BrO2
